US07696229B2
DMF (0.5 mL) was added to solution of 4-(pyrrolidin-1-yl)benzenesulfonic acid (7.3 g, 32.16 mmol) in dichloromethane (40 mL). Oxalyl chloride (10 g, 78.74 mmol) was then dropwise and the resulting solution was maintained at room temperature for 1 hour. The reaction mixture was then quenched by the addition of 40 mL of iced water. The resulting solution was extracted using dichloromethane (3×20 mL), and the organic layers were combined, dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography using a 1:100 ethyl acetate/petroleum ether solvent system to afford 1.5 g (19%) of 4-(pyrrolidin-1-yl)benzene-1-sulfonyl chloride as a yellow solid. 1H NMR (CDCl3) δ 7.78 (d, 2H), 6.55 (d, 2H), 3.41 (t, 4H), 2.03 (t, 4H).

reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | 4-(pyrrolidin-1-yl)benzenesulfonic acid | 32.16 mmol, 7.3 g | N1(CCCC1)C1=CC=C(C=C1)S(=O)(=O)O | C10H13NO3S
reactant | Oxalyl chloride | 78.74 mmol, 10 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-(pyrrolidin-1-yl)benzene-1-sulfonyl chloride | 1.5 g, 19% | N1(CCCC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H12ClNO2S
